US07166629B2
0.236 cm3 of pyridine and 26.5 mg of 3-methoxyphenylsulfonyl chloride are added to a solution of 54.1 mg of 3-amino-5-phenyl-6-chloro-1-[(2-trimethylsilylethoxy)methyl]indazole in 2 ml of methylene chloride. The reaction medium is stirred at ambient temperature for 24 hours and then evaporated. The purification of the crude product by chromatography on silica (eluent: methylenechloride/acetone (98/2, v/v)) makes it possible to obtain 70 mg of 1N-[6-chloro-5-phenyl-1-(2-(trimethylsilanyl)ethoxymethyl)-1H-indazol-3-yl]-3-methoxybenzenesulfonamide (colorless foam).

reactant | pyridine | 0.236 cm3 | N1=CC=CC=C1 | C5H5N
reactant | 3-methoxyphenylsulfonyl chloride | 26.5 mg | COC=1C=C(C=CC1)S(=O)(=O)Cl | C7H7ClO3S
reactant | 3-amino-5-phenyl-6-chloro-1-[(2-trimethylsilylethoxy)methyl]indazole | 54.1 mg | NC1=NN(C2=CC(=C(C=C12)C1=CC=CC=C1)Cl)COCC[Si](C)(C)C | C19H24ClN3OSi
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
product | [6-chloro-5-phenyl-1-(2-(trimethylsilanyl)ethoxymethyl)-1H-indazol-3-yl]-3-methoxybenzenesulfonamide | ClC1=C(C=C2C(=NN(C2=C1)COCC[Si](C)(C)C)C1=C(C=CC=C1OC)S(=O)(=O)N)C1=CC=CC=C1 | C26H30ClN3O4SSi
